US09212182B2
To a solution of 4-bromo-2-iodoaniline (750 g, 2.51 mol, 1.0 equiv) in DMF (5.0 L) was added ethyl acrylate (277 g, 2.76 mol, 1.1 equiv, Avra) and sodium bicarbonate (680 g, 6.29 mol, 2.5 equiv). The reaction mixture was degassed with nitrogen for 20 min followed by the addition of palladium acetate (28.8 g, 128.27 mmol, 0.05 equiv, Hindustan Platinum). The reaction mixture was heated at 70° C. for 3 h. The reaction was filtered through celite and the celite bed was washed with ethyl acetate (2×500 mL). The filtrate was concentrated under reduced pressure to obtain the crude residue which was purified by column chromatography (silica gel; mesh size 60-120, elution 0-20% ethyl acetate in hexanes) to obtain (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate (620 g, 77.0%), as yellow solid. TLC solvent system: 20% ethyl acetate in hexanes. Product's Rf: 0.4. MS (ESI, positive ion) m/z; 270.2 (M+1). 1H NMR (400 MHz, DMSO) δ 7.75 (d, J=16.1 Hz, 1H), 7.57 (d, J=2.0 Hz, 1H), 7.16 (dd, J=9.1, 2.4 Hz, 1H), 6.66 (d, J=8.6 Hz, 1H), 6.43 (d, J=8.6 Hz, 1H), 5.81 (s, 2H), 4.20 (q, J=7.2 Hz, 2H), 1.27 (t, J=7.2 Hz, 3H).

reactant | 4-bromo-2-iodoaniline | 2.51 mol, 750 g, 1.0 equiv | BrC1=CC(=C(N)C=C1)I | C6H5BrIN
reactant | ethyl acrylate | 2.76 mol, 277 g, 1.1 equiv | C(C=C)(=O)OCC | C5H8O2
reactant | sodium bicarbonate | 6.29 mol, 680 g, 2.5 equiv | C([O-])(O)=O.[Na+]
solvent | DMF | 5.0 L | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 128.27 mmol, 28.8 g, 0.05 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate | 620 g, 77.0% | NC1=C(C=C(C=C1)Br)/C=C/C(=O)OCC | C11H12BrNO2
